US09278964B2
Preparation of (Z)-4-nitrophenyl (3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)carbamate (CA50)
A round-bottomed flask was charged with 2-imino-3-(2-isopropyl-5-methylphenyl)thiazolidin-4-one (CA49) (1.30 g, 5.23 mmol), 4-Nitrophenyl chloroformate (1.06 g, 5.23 mmol) and cesium carbonate (1.71 g, 5.23 mmol) were dissolved in acetonitrile (13 mL). The reaction mixture was stirred at room temperature for 1.5 hours. The reaction was diluted with dichloromethane and adsorbed onto silica gel. Purification by flash column chromatography using 0-100% ethyl acetate/hexanes as eluent provided the title compound as a dark red solid (1.88 g, 86%): 1H NMR (400 MHz, CDCl3) δ 8.31-8.18 (m, 2H), 7.39-7.27 (m, 4H), 6.92-6.83 (m, 1H), 4.14-4.00 (m, 2H), 2.61 (p, J=6.9 Hz, 1H), 2.36 (d, J=0.7 Hz, 3H), 1.30-1.10 (m, 6H); ESIMS m/z 414 ([M+H]+).

reactant | 2-imino-3-(2-isopropyl-5-methylphenyl)thiazolidin-4-one | 5.23 mmol, 1.30 g | N=C1SCC(N1C1=C(C=CC(=C1)C)C(C)C)=O | C13H16N2OS
reactant | 4-Nitrophenyl chloroformate | 5.23 mmol, 1.06 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | cesium carbonate | 5.23 mmol, 1.71 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 13 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (Z)-4-nitrophenyl (3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)carbamate | 1.88 g, 86% | C(C)(C)C1=C(C=C(C=C1)C)N1/C(/SCC1=O)=N/C(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C20H19N3O5S
